US05236912
(b) 15α-Acetoxy-3-methoxyandrosta-3,5-dien-17-one
10.0 g of 15α-acetoxy-4-androstene-3,17-dione is stirred under reflux with 60 ml of dimethoxypropane and 1.0 g of pyridinium-4-toluenesulfonate. After 5 hours, 1 ml of pyridine is added, the mixture is diluted with ethyl acetate, washed neutral with water, and dried. The crude product is recrystallized from hexane/acetone. Yield: 9.6 of 15α-acetoxy-3-methoxyandrosta-3,5-dien-17-one, mp 209° C.

reactant | 15α-acetoxy-4-androstene-3,17-dione | 10.0 g | C(C)(=O)O[C@H]1CC([C@]2(C)[C@@H]1[C@@H]1CCC3=CC(CC[C@]3(C)[C@H]1CC2)=O)=O | C21H28O4
reactant | dimethoxypropane | 60 ml | COC(C)(C)OC | C5H12O2
reactant | pyridinium 4-toluenesulfonate | 1.0 g | [NH+]1=CC=CC=C1.C1(=CC=C(C=C1)S(=O)(=O)[O-])C
reactant | pyridine | 1 ml | N1=CC=CC=C1 | C5H5N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 15α-Acetoxy-3-methoxyandrosta-3,5-dien-17-one | C(C)(=O)O[C@H]1CC([C@]2(C)[C@@H]1[C@@H]1CC=C3C=C(CC[C@]3(C)[C@H]1CC2)OC)=O | C22H30O4
